US04950678
A solution of 3-(4-chlorophenyl)-1-(2,6-dichloro-4-nitrophenyl)-pyrazole (0.69 g, 1.87 mmol), prepared following the procedure of Example 9, in THF/ethanol (1:4; 35 ml) is treated with platinum dioxide (43 mg) and stirred under H2 at atmospheric pressure for 2 hours. The reaction mixture is filtered and concentrated to give 3,5-dichloro-4-[3-(4-chlorophenyl)-1-pyrazolyl]aniline.

reactant | 3-(4-chlorophenyl)-1-(2,6-dichloro-4-nitrophenyl)-pyrazole | 1.87 mmol, 0.69 g | ClC1=CC=C(C=C1)C1=NN(C=C1)C1=C(C=C(C=C1Cl)[N+](=O)[O-])Cl | C15H8Cl3N3O2
solvent | THF ethanol | 35 ml | C1CCOC1.C(C)O
catalyst | platinum dioxide | 43 mg | [Pt](=O)=O
product | 3,5-dichloro-4-[3-(4-chlorophenyl)-1-pyrazolyl]aniline | ClC=1C=C(N)C=C(C1N1N=C(C=C1)C1=CC=C(C=C1)Cl)Cl | C15H10Cl3N3
